2150-12-15 10:03:00 Physician Attending Progress Note
Chief Complaint: acute on chronic respiratory faiulure, hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MULTI LUMEN - START [**2150-12-14**] 06:46 PM
 EKG - At [**2150-12-14**] 10:00 PM
   Received total 2.5 L IV NS overnight, I/Os 3700cc positive at midnight
   Just off pressors at time of rounds
   History obtained from Patient
   Allergies:
   Penicillins
   Rash;
   Codeine
   Rash;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Last dose of Antibiotics:
   Ceftazidime - [**2150-12-14**] 10:30 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2150-12-15**] 08:14 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Nutritional Support: NPO
   Respiratory: Cough, Dyspnea, purulent sputum
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2150-12-15**] 10:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.6
C (97.8
   HR: 88 (70 - 88) bpm
   BP: 140/67(87) {62/29(32) - 172/126(134)} mmHg
   RR: 21 (11 - 22) insp/min
   SpO2: 93%
   Heart rhythm: V Paced
   Wgt (current): 81.3 kg (admission): 81.3 kg
   Height: 60 Inch
   CVP: 15 (5 - 15)mmHg
   Total In:
                                                                  4,128 mL
                                                                  1,723 mL
   PO:
   TF:
   IVF:
                                                                  1,128 mL
                                                                  1,723 mL
   Blood products:
   Total out:
                                                                    400 mL
                                                                  1,085 mL
   Urine:
                                                                    400 mL
                                                                  1,085 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,728 mL
                                                                    638 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: 7.29/47/109/23/-3
   PaO2 / FiO2: 311
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Percussion: No(t) Resonant : ), (Breath Sounds:
   Crackles : L > R base, scattered over bilateral lung fields, Wheezes :
   few end expiratory wheeze)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.8 g/dL
   153 K/uL
   90 mg/dL
   1.0 mg/dL
   23 mEq/L
   4.6 mEq/L
   36 mg/dL
   112 mEq/L
   143 mEq/L
   28.4 %
   17.7 K/uL
        [image002.jpg]
                            [**2150-12-14**]  03:07 PM
                            [**2150-12-14**]  11:57 PM
                            [**2150-12-15**]  03:48 AM
                            [**2150-12-15**]  08:22 AM
   WBC
   17.7
   Hct
   27.0
   28.4
   Plt
   153
   Cr
   1.0
   TCO2
   28
   24
   Glucose
   90
   Other labs: PT / PTT / INR:16.0/49.0/1.4, Lactic Acid:1.9 mmol/L,
   Ca++:6.5 mg/dL, Mg++:1.9 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 HEART FAILURE (CHF), DIASTOLIC, CHRONIC:  Monitoring closely in
   setting of volume resusitation albeit came in dehydrated and requiring
   fluids in setting of hypotenion. Holding antihypertensives.
 HYPOTENSION:  Volume depletion and possible early sepsis.  Responsive
   to fluids. Now off pressors this morning.  Following culture data.
   Continues on antibiotics as below.
  CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION: Secondary to multifocal pneumonia. H1N1
   positive on tamaflu.  Has purlulent sputum, send for gram stain, C &
   S.  Empirically covered with broad spectrum abx for presumed
   superimposed bacterial process (staph, strep).  Adjust meds given
   improved renal function.  Nebs every 6 hours.
 PNEUMONIA:  Influenza with probable superimposed bacterial process
   given purulent sputum.
 ACUTE RENAL FUNCTION:  Improving with volume resusitation, likely
   prerenal component in setting of volume depletion and early sepsis.
 ANEMIA:  Decreased hct likely dilutional, will trend CBC today to be
   sure there is no active blood loss.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2150-12-14**] 06:46 PM
   18 Gauge - [**2150-12-14**] 06:47 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2150-12-16 10:29:00 Physician Attending Progress Note
Chief Complaint: respiratory failure, pneumonia, COPD
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Weaned of pressors
   Hypertensive this morning, tachycardic and more tachypneic
   Complianing of worsening SOB this morning, denies chest pain, not
   improved with nebs, chest PT/suctioning
   History obtained from Patient
   Allergies:
   Penicillins
   Rash;
   Codeine
   Rash;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Last dose of Antibiotics:
   Ceftazidime - [**2150-12-15**] 09:45 PM
   Vancomycin - [**2150-12-16**] 09:38 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2150-12-16**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-12-16**] 10:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.2
C (98.9
   HR: 104 (78 - 110) bpm
   BP: 164/79(102) {110/44(61) - 169/87(102)} mmHg
   RR: 25 (15 - 27) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 81.3 kg (admission): 81.3 kg
   Height: 60 Inch
   CVP: 13 (8 - 14)mmHg
   Total In:
                                                                  2,848 mL
                                                                    437 mL
   PO:
                                                                    970 mL
                                                                    135 mL
   TF:
   IVF:
                                                                  1,878 mL
                                                                    302 mL
   Blood products:
   Total out:
                                                                  2,445 mL
                                                                    905 mL
   Urine:
                                                                  2,445 mL
                                                                    905 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    403 mL
                                                                   -468 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : L > R base), poorer air
   movement, purse lip breathing, using accessory muscles
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.3 g/dL
   160 K/uL
   107 mg/dL
   0.9 mg/dL
   25 mEq/L
   4.0 mEq/L
   23 mg/dL
   115 mEq/L
   145 mEq/L
   28.1 %
   18.4 K/uL
        [image002.jpg]
                            [**2150-12-14**]  03:07 PM
                            [**2150-12-14**]  11:57 PM
                            [**2150-12-15**]  03:48 AM
                            [**2150-12-15**]  08:22 AM
                            [**2150-12-16**]  02:10 AM
   WBC
   17.7
   18.4
   Hct
   27.0
   28.4
   28.1
   Plt
   153
   160
   Cr
   1.0
   0.9
   TCO2
   28
   24
   Glucose
   90
   107
   Other labs: PT / PTT / INR:16.6/57.7/1.5, Lactic Acid:1.9 mmol/L,
   Albumin:2.9 g/dL, Ca++:7.2 mg/dL, Mg++:2.0 mg/dL, PO4:2.0 mg/dL
   Microbiology: sputum: purulent, OPF
   Blood cx:  NGTD
   UCx: negative
   Assessment and Plan
 PNEUMONIA, OTHER:  Influenza with superimposed bacterial infection.
 ACUTE ON CHRONIC RESPIRATORY FAILURE:  Acute worsening this morning
   in setting of likely congestive heart failure secondary to volume she
   has received and hypertension/tachycardia with known diastolic
   dysfunction.  Lasiz/nitropaste/morphine this morning. Consider
   noninvasive ventilation.  Continue abx and tamiflu.
 HEART FAILURE (CHF), DIASTOLIC, CHRONIC:  As above
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION:  Continue nebs.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2150-12-14**] 06:46 PM
   18 Gauge - [**2150-12-14**] 06:47 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2150-12-17 09:29:00 Physician Attending Progress Note
Chief Complaint: acute on chronic respiratory failure, pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ULTRASOUND - At [**2150-12-16**] 01:00 PM
   US right upper ext looks good. No clot seen.
 EKG - At [**2150-12-16**] 03:40 PM
 INVASIVE VENTILATION - START [**2150-12-16**] 05:35 PM
 ARTERIAL LINE - START [**2150-12-17**] 12:10 AM
   Diruesed
   Awake, agitated this morning, pulling at ETT requiring increased
   sedation
   Patient unable to provide history: Sedated, intubated
   Allergies:
   Penicillins
   Rash;
   Codeine
   Rash;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2150-12-16**] 09:38 AM
   Ceftazidime - [**2150-12-16**] 11:00 PM
   Infusions:
   Fentanyl (Concentrate) - 100 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Morphine Sulfate - [**2150-12-16**] 03:28 PM
   Furosemide (Lasix) - [**2150-12-16**] 03:29 PM
   Midazolam (Versed) - [**2150-12-17**] 07:34 AM
   Fentanyl - [**2150-12-17**] 07:34 AM
   Heparin Sodium (Prophylaxis) - [**2150-12-17**] 07:41 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Nutritional Support: NPO
   Psychiatric / Sleep: Agitated
   Flowsheet Data as of  [**2150-12-17**] 09:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 111 (71 - 140) bpm
   BP: 132/73(98) {94/46(60) - 145/75(98)} mmHg
   RR: 20 (12 - 25) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 83 kg (admission): 81.3 kg
   Height: 60 Inch
   CVP: 14 (7 - 14)mmHg
   Total In:
                                                                  1,022 mL
                                                                    136 mL
   PO:
                                                                    135 mL
   TF:
   IVF:
                                                                    857 mL
                                                                    136 mL
   Blood products:
   Total out:
                                                                  4,220 mL
                                                                    395 mL
   Urine:
                                                                  4,220 mL
                                                                    395 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,198 mL
                                                                   -259 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 0 (0 - 432) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 5
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 80
   PIP: 25 cmH2O
   Plateau: 20 cmH2O
   SpO2: 99%
   ABG: 7.40/42/137/23/1
   Ve: 9.3 L/min
   PaO2 / FiO2: 343
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Wheezes : occasional end
   epiratory, Diminished: left, Rhonchorous: right side throughout)
   Abdominal: Soft
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   9.4 g/dL
   209 K/uL
   104 mg/dL
   0.7 mg/dL
   23 mEq/L
   4.5 mEq/L
   19 mg/dL
   112 mEq/L
   145 mEq/L
   29.5 %
   13.0 K/uL
         [image002.jpg]
                            [**2150-12-14**]  03:07 PM
                            [**2150-12-14**]  11:57 PM
                            [**2150-12-15**]  03:48 AM
                            [**2150-12-15**]  08:22 AM
                            [**2150-12-16**]  02:10 AM
                            [**2150-12-16**]  10:37 AM
                            [**2150-12-16**]  03:05 PM
                            [**2150-12-16**]  03:29 PM
                            [**2150-12-17**]  12:29 AM
                            [**2150-12-17**]  03:42 AM
   WBC
   17.7
   18.4
   13.0
   Hct
   27.0
   28.4
   28.1
   29.5
   Plt
   153
   160
   209
   Cr
   1.0
   0.9
   0.8
   0.7
   TCO2
   28
   24
   25
   27
   27
   Glucose
   90
   107
   121
   104
   Other labs: PT / PTT / INR:16.6/57.7/1.5, Lactic Acid:1.9 mmol/L,
   Albumin:2.9 g/dL, Ca++:7.6 mg/dL, Mg++:2.0 mg/dL, PO4:2.1 mg/dL
   Imaging: CXR:  Worsening mulitlobar right sided pneumonia, ETT in good
   position, IJ in place
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]) ON CHRONIC:  Secondary to
   influenza PNA, superimposed bacterial PNA, and CHF.  Intubated for
   worsening pneumonia, suctioning thick brown secretions via ETT. Follow
   up on sputum culture results.  Droplet precautions.  Continue tamiflu.
   Increase vanco dose.
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION: Secondary to influenza PNA, superimposed
   bacterial PNA, and CHF. MDIs in line with the vent.
 HYPERTENSION, BENIGN:  Now better controlled. If blood pressure
   starts to increase will restart captopril.
 HEART FAILURE (CHF), DIASTOLIC, CHRONIC:  Will need to control blood
   pressure.  Don't feel she needs further diuresis.  Goal to keep even
   I/Os today.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2150-12-14**] 06:46 PM
   Arterial Line - [**2150-12-17**] 12:10 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2150-12-18 09:58:00 Physician Attending Progress Note
Chief Complaint: Multilobar pneumonia, respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Thin clear secretions per ETT, minimal
   Patient unable to provide history: Sedated, intubated
   Allergies:
   Penicillins
   Rash;
   Codeine
   Rash;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Last dose of Antibiotics:
   Ceftazidime - [**2150-12-17**] 10:00 PM
   Vancomycin - [**2150-12-18**] 07:46 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl (Concentrate) - 100 mcg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2150-12-17**] 10:36 AM
   Midazolam (Versed) - [**2150-12-17**] 08:30 PM
   Fentanyl - [**2150-12-17**] 08:30 PM
   Heparin Sodium (Prophylaxis) - [**2150-12-18**] 08:03 AM
   Omeprazole (Prilosec) - [**2150-12-18**] 08:03 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2150-12-18**] 09:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.2
C (98.9
   HR: 106 (69 - 106) bpm
   BP: 115/64(83) {88/47(61) - 150/80(103)} mmHg
   RR: 21 (12 - 21) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 82.5 kg (admission): 81.3 kg
   Height: 60 Inch
   CVP: 10 (8 - 14)mmHg
   Total In:
                                                                    836 mL
                                                                    921 mL
   PO:
   TF:
                                                                     81 mL
                                                                    230 mL
   IVF:
                                                                    420 mL
                                                                    446 mL
   Blood products:
   Total out:
                                                                  1,060 mL
                                                                    610 mL
   Urine:
                                                                  1,060 mL
                                                                    610 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -224 mL
                                                                    311 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 457 (457 - 457) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 38
   PIP: 11 cmH2O
   Plateau: 19 cmH2O
   SpO2: 98%
   ABG: 7.43/42/117/27/3
   Ve: 10 L/min
   PaO2 / FiO2: 293
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.4 g/dL
   235 K/uL
   104 mg/dL
   0.7 mg/dL
   27 mEq/L
   3.6 mEq/L
   18 mg/dL
   114 mEq/L
   150 mEq/L
   28.2 %
   8.6 K/uL
        [image002.jpg]
                            [**2150-12-16**]  02:10 AM
                            [**2150-12-16**]  10:37 AM
                            [**2150-12-16**]  03:05 PM
                            [**2150-12-16**]  03:29 PM
                            [**2150-12-17**]  12:29 AM
                            [**2150-12-17**]  03:42 AM
                            [**2150-12-17**]  04:57 PM
                            [**2150-12-18**]  04:43 AM
                            [**2150-12-18**]  05:07 AM
                            [**2150-12-18**]  06:26 AM
   WBC
   18.4
   13.0
   8.6
   Hct
   28.1
   29.5
   28.2
   Plt
   160
   209
   235
   Cr
   0.9
   0.8
   0.7
   0.7
   TCO2
   25
   27
   27
   29
   23
   29
   Glucose
   107
   121
   104
   104
   Other labs: PT / PTT / INR:16.6/57.7/1.5, Lactic Acid:1.0 mmol/L,
   Albumin:2.9 g/dL, Ca++:7.7 mg/dL, Mg++:2.2 mg/dL, PO4:2.1 mg/dL
   Imaging: CXR:  ETT in good position,  right sided infiltrates unchanged
   Microbiology: Sputum:  Staph coag positive
   Assessment and Plan
 ALTERATION IN NUTRITION:  Holding tube feeds.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]): Secondary to pneumonia and
   COPD exacerbation as below.
 PNEUMONIA, OTHER:  Infuenza with superimposed coag positive staph
   pneumonia. On tamiflu/vancomycin/ceftazidime/levofloxicin.  Continues
   on droplet precautions.  Stopping levofloxicin, consider stopping
   ceftazidine.  WBC normal.  Afebrile.  Holding sedation and tube feeds
   in anticipation of extubation this afternoon.
 HEART FAILURE (CHF), DIASTOLIC, CHRONIC:  Restarting captopril.
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION:  In setting of pneunomia and congestive heart
   failure.  Continue MDIs.
 HYPERNATREMIC:  Free water replacement.  Serial electrolytes.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2150-12-17**] 04:27 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2150-12-14**] 06:46 PM
   Arterial Line - [**2150-12-17**] 12:10 AM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2150-12-19 07:49:00 Physician Resident Progress Note
TITLE: PHYSICIAN RESIDENT PROGRESS NOTE
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2150-12-18**] 08:01 AM
 EKG - At [**2150-12-18**] 06:56 PM
 INVASIVE VENTILATION - START [**2150-12-18**] 10:33 PM
   -Extubated in a.m.
   -Developed respiratory distress in p.m. -> re-intubated
   -Was noted to be in A. fib
   -After intubation, dropped BP to 50s/30s -> started pressors -> had
   persistent pressor requirement overnight
   -Checked EKG and cardiac enzymes in setting of persistent hypotension
   and increased ectopy -> trop 0.10, EKG with pseudonormalization in
   lateral percordial leads -> gave ASA, changed simvastain 40 to
   atorvastatin 80 -> discussed EKGs with cards fellow, who said this was
   likely demand ischemia and advised against heparin (initially ordered
   heparin but d/c'ed this before it was actually given)
   Allergies:
   Penicillins
   Rash;
   Codeine
   Rash;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Last dose of Antibiotics:
   Ceftazidime - [**2150-12-17**] 10:00 PM
   Vancomycin - [**2150-12-18**] 07:46 AM
   Infusions:
   Fentanyl (Concentrate) - 100 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2150-12-18**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2150-12-18**] 08:03 AM
   Hydralazine - [**2150-12-18**] 06:30 PM
   Metoprolol - [**2150-12-18**] 07:07 PM
   Furosemide (Lasix) - [**2150-12-18**] 08:30 PM
   Morphine Sulfate - [**2150-12-18**] 08:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-12-19**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.6
C (99.6
   HR: 82 (70 - 113) bpm
   BP: 140/70(96) {80/42(54) - 155/83(108)} mmHg
   RR: 19 (14 - 29) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 82.5 kg (admission): 81.3 kg
   Height: 60 Inch
    CVP: 9 (5 - 15)mmHg
   Total In:
                                                                  2,168 mL
                                                                    317 mL
   PO:
   TF:
                                                                    251 mL
   IVF:
                                                                  1,612 mL
                                                                    317 mL
   Blood products:
   Total out:
                                                                  4,300 mL
                                                                    925 mL
   Urine:
                                                                  4,300 mL
                                                                    925 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,132 mL
                                                                   -608 mL
   Respiratory support
   O2 Delivery Device: Face tent, Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 457 (457 - 457) mL
   PS : 5 cmH2O
   RR (Set): 15
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 28 cmH2O
   Plateau: 21 cmH2O
   SpO2: 98%
   ABG: 7.48/43/155/30/8
   Ve: 8.4 L/min
   PaO2 / FiO2: 388
   Physical Examination
   General: intubated, sedated.  Sychronous with vent.
   Lungs: Lungs sound wheezy.
   CV: Tachycardic, irregular rhythm, normal S1 + S2, no murmurs, rubs,
   gallops
   Abdomen: soft, non-tender, non-distended, bowel sounds present
   Ext: warm, well perfused, no cyanosis or edema
   Labs / Radiology
   334 K/uL
   9.4 g/dL
   133 mg/dL
   0.7 mg/dL
   30 mEq/L
   5.1 mEq/L
   15 mg/dL
   107 mEq/L
   144 mEq/L
   28.2 %
   10.3 K/uL
        [image002.jpg]
                            [**2150-12-18**]  04:43 AM
                            [**2150-12-18**]  05:07 AM
                            [**2150-12-18**]  06:26 AM
                            [**2150-12-18**]  02:54 PM
                            [**2150-12-18**]  03:00 PM
                            [**2150-12-18**]  08:21 PM
                            [**2150-12-19**]  12:16 AM
                            [**2150-12-19**]  01:02 AM
                            [**2150-12-19**]  03:07 AM
                            [**2150-12-19**]  03:26 AM
   WBC
   8.6
   10.3
   Hct
   28.2
   28.2
   Plt
   235
   334
   Cr
   0.7
   0.7
   0.7
   TropT
   0.10
   0.10
   TCO2
   23
   29
   31
   33
   33
   33
   Glucose
   104
   142
   133
   Other labs: PT / PTT / INR:15.8/34.4/1.4, CK / CKMB /
   Troponin-T:74/2/0.10, Lactic Acid:1.4 mmol/L, Albumin:2.9 g/dL,
   Ca++:8.0 mg/dL, Mg++:2.1 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   83 yo F with COPD on 2L home O2, diastolic HF, PAF (not on coumadin)
   who presents with fever, cough, hypotension, altered mental status in
   the setting of influenza, intubated for respiratory distress.
   1. Respiratory failure
 Failed extubation yesterday, likely [**3-2**]
   extensive pneumonia.  Most recent blood gas shows that patient is being
   hyperventilated (given h/o COPD) and hyperoxygenated.
   - decrease respiratory rate and FIO2
   - recheck blood gas
   2. Influenza/pneumonia
 DFA positive for influenza. Now with likely
   secondary infection with MRSA.
   - continue tamiflu
   - narrow abx to vancomycin; increase vancomycin dose given
   subtherapeutic level
   - droplet, contact precautions
   - f/u cultures
   - continue nebs
   3. Hypotension
 Multifactorial, [**3-2**] sedation, diuresis, and
   pneumonia/sepsis.
   - continue Levophed, wean as tolerated
   4. Elevated troponin
 Likely [**3-2**] demand ischemia.
   - cycle cardiac enzymes
   - serial EKGs
   5. Diastolic heart failure
   - Hold diuresis in setting of hypotension
   - Hold captopril in setting of hypotension
   .
   6. COPD:
   - standing albuterol and ipratropium nebs
   - cont Flovent
   .
   7. Neuropathy/chronic pain:
   - continue TID neurontin
   ICU Care
   Nutrition: Restart tube feeds
   Glycemic Control:
   Lines:
   Multi Lumen - [**2150-12-14**] 06:46 PM
   Arterial Line - [**2150-12-17**] 12:10 AM
   Prophylaxis:
   DVT: venodynes, heparin SC
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: [**Hospital Unit Name 44**]

2150-12-19 07:50:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Flu and MRSA pna
   Failed extubation yesterday
   Pressors added
   New elevated troponin
 EKG with non-specific changes
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2150-12-18**] 08:01 AM
 EKG - At [**2150-12-18**] 06:56 PM
 INVASIVE VENTILATION - START [**2150-12-18**] 10:33 PM
   Allergies:
   Penicillins
   Rash;
   Codeine
   Rash;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Last dose of Antibiotics:
   Ceftazidime - [**2150-12-17**] 10:00 PM
   Vancomycin - [**2150-12-18**] 07:46 AM
   Infusions:
   Fentanyl (Concentrate) - 100 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2150-12-18**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2150-12-18**] 08:03 AM
   Hydralazine - [**2150-12-18**] 06:30 PM
   Metoprolol - [**2150-12-18**] 07:07 PM
   Furosemide (Lasix) - [**2150-12-18**] 08:30 PM
   Morphine Sulfate - [**2150-12-18**] 08:30 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-12-19**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.6
C (99.6
   HR: 82 (70 - 113) bpm
   BP: 140/70(96) {80/42(54) - 155/83(108)} mmHg
   RR: 19 (14 - 29) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 82.5 kg (admission): 81.3 kg
   Height: 60 Inch
   CVP: 9 (5 - 15)mmHg
   Total In:
                                                                  2,168 mL
                                                                    319 mL
   PO:
   TF:
                                                                    251 mL
   IVF:
                                                                  1,612 mL
                                                                    319 mL
   Blood products:
   Total out:
                                                                  4,300 mL
                                                                    925 mL
   Urine:
                                                                  4,300 mL
                                                                    925 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,132 mL
                                                                   -606 mL
   Respiratory support
   O2 Delivery Device: Face tent, Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 457 (457 - 457) mL
   PS : 5 cmH2O
   RR (Set): 15
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 28 cmH2O
   Plateau: 21 cmH2O
   SpO2: 98%
   ABG: 7.48/43/155
   Ve: 8.4 L/min
   PaO2 / FiO2: 388
   Physical Examination
   Intubated, sedated
   Neck supple
   Hrt RRR
   Lung minimal wheezes, crackles on right
   Abd benign, + BSs
   Extrem no edema
   Labs / Radiology
   9.4 g/dL
   334 K/uL
   133 mg/dL
   0.7 mg/dL
   30 mEq/L
   5.1 mEq/L
   15 mg/dL
   107 mEq/L
   144 mEq/L
   28.2 %
   10.3 K/uL
        [image002.jpg]
                            [**2150-12-18**]  04:43 AM
                            [**2150-12-18**]  05:07 AM
                            [**2150-12-18**]  06:26 AM
                            [**2150-12-18**]  02:54 PM
                            [**2150-12-18**]  03:00 PM
                            [**2150-12-18**]  08:21 PM
                            [**2150-12-19**]  12:16 AM
                            [**2150-12-19**]  01:02 AM
                            [**2150-12-19**]  03:07 AM
                            [**2150-12-19**]  03:26 AM
   WBC
   8.6
   10.3
   Hct
   28.2
   28.2
   Plt
   235
   334
   Cr
   0.7
   0.7
   0.7
   TropT
   0.10
   0.10
   TCO2
   23
   29
   31
   33
   33
   33
   Glucose
   104
   142
   133
   Other labs: PT / PTT / INR:15.8/34.4/1.4, CK / CKMB /
   Troponin-T:74/2/0.10, Lactic Acid:1.4 mmol/L, Albumin:2.9 g/dL,
   Ca++:8.0 mg/dL, Mg++:2.1 mg/dL, PO4:3.1 mg/dL
   CXR worsening R>L infiltrates, ETT and CVL OK
   Assessment and Plan
   Resp failure due to flu, MRSA pna in setting of O2 dependent emphysema
 cont vent support, cont abx,  MDIs, slow RR and wean FiO2.
   Reintubation likely due to secretions and incompletely treated pna.
   Shock
 likely due to pna, sedation, prior diuresis. On levophed, dose
   stable and making urine, will wean as tolerated, use IVF judiciously
   CHF
 try to keep even as pressor dose decreased
   Positive troponin
 suspect demand ischemia, follow EKG and troponin
   ICU Care
   Nutrition: start TFs
   Glycemic Control:
   Lines:
   Multi Lumen - [**2150-12-14**] 06:46 PM
   Arterial Line - [**2150-12-17**] 12:10 AM
   Prophylaxis:
   DVT:   sc hep
   Stress ulcer:   PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :  ICU
   Total time spent:   37

2150-12-20 07:34:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -Off pressors, maintaing pressures
   -Met diuresis goal of even to slightly negative balance.
   -RR decreased from 15 to 12, FiO2 weaned down to 35%.  Oxygenation
   continues to be good.
   This AM, the patient is intubated, sedated, not following verbal
   commands.
   Allergies:
   Penicillins
   Rash;
   Codeine
   Rash;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Last dose of Antibiotics:
   Ceftazidime - [**2150-12-17**] 10:00 PM
   Tamiflu - [**2150-12-19**] 08:00 AM
   Vancomycin - [**2150-12-19**] 08:45 AM
   Infusions:
   Fentanyl (Concentrate) - 125 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2150-12-19**] 08:14 AM
   Midazolam (Versed) - [**2150-12-19**] 11:25 AM
   Fentanyl - [**2150-12-19**] 11:25 AM
   Heparin Sodium (Prophylaxis) - [**2150-12-19**] 11:07 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-12-20**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.8
C (100.1
   HR: 88 (70 - 115) bpm
   BP: 125/63(84) {90/43(59) - 150/130(137)} mmHg
   RR: 15 (13 - 20) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 82.5 kg (admission): 81.3 kg
   Height: 60 Inch
    CVP: 16 (10 - 16)mmHg
   Total In:
                                                                  1,369 mL
                                                                    272 mL
   PO:
   TF:
                                                                    170 mL
                                                                    150 mL
   IVF:
                                                                    779 mL
                                                                    122 mL
   Blood products:
   Total out:
                                                                  1,476 mL
                                                                    240 mL
   Urine:
                                                                  1,476 mL
                                                                    240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -107 mL
                                                                     32 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI Deferred: Hemodynamic Instability
   PIP: 26 cmH2O
   Plateau: 19 cmH2O
   SpO2: 98%
   ABG: 7.42/46/131
   Ve: 9.8 L/min
   PaO2 / FiO2: 366
   Physical Examination
   General: intubated, sedated.  Sychronous with vent.
   Lungs: Lungs sound wheezy.
   CV: Tachycardic, irregular rhythm, normal S1 + S2, no murmurs, rubs,
   gallops
   Abdomen: soft, non-tender, non-distended, bowel sounds present
   Ext: warm, well perfused, no cyanosis or edema
   Labs / Radiology
   324 K/uL
   9.4 g/dL
   116 mg/dL
   0.7 mg/dL
   28 mEq/L
   4.3 mEq/L
   12 mg/dL
   107 mEq/L
   143 mEq/L
   28.5 %
   8.7 K/uL
        [image002.jpg]
                            [**2150-12-18**]  08:21 PM
                            [**2150-12-19**]  12:16 AM
                            [**2150-12-19**]  01:02 AM
                            [**2150-12-19**]  03:07 AM
                            [**2150-12-19**]  03:26 AM
                            [**2150-12-19**]  09:04 AM
                            [**2150-12-19**]  10:16 AM
                            [**2150-12-19**]  03:29 PM
                            [**2150-12-19**]  03:49 PM
                            [**2150-12-20**]  04:36 AM
   WBC
   10.3
   8.7
   Hct
   28.2
   28.5
   Plt
   334
   324
   Cr
   0.7
   0.7
   TropT
   0.10
   0.10
   0.10
   0.09
   TCO2
   33
   33
   33
   32
   32
   Glucose
   133
   116
   Other labs: PT / PTT / INR:16.7/33.1/1.5, CK / CKMB /
   Troponin-T:36/2/0.09, Differential-Neuts:66.2 %, Lymph:21.8 %, Mono:8.8
   %, Eos:3.0 %, Lactic Acid:1.4 mmol/L, Albumin:2.9 g/dL, Ca++:8.7 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   83 yo F with COPD on 2L home O2, diastolic HF, PAF (not on coumadin)
   who presents with fever, cough, hypotension, altered mental status in
   the setting of influenza, intubated for respiratory distress.
   1. Respiratory failure
 Failed extubation 2 days ago, likely [**3-2**]
   extensive pneumonia.  Continuing to treat for Staph PNA with
   appropriate Abx.
   - Trial of PS this AM. F/u RSBI.
   - f/u ABGs
   -I&O goal of ~even to slightly negative today.
   2. Influenza/pneumonia
 DFA positive for influenza. Now with likely
   secondary infection with MRSA.
   - continue tamiflu
   - Continue on vancomycin; f/u Vanco trough tomorrow
   - droplet, contact precautions
   - f/u cultures
   - continue nebs
   3. Hypotension
Off Levophed, no pressor requirement.  Continue to
   monitor BPs and maintain MAP>65.
   4. Elevated troponin
 Likely [**3-2**] demand ischemia.  Stable CK-MB.  EKG
   with no evidence of ACS.
   5. Diastolic heart failure, paroxysmal atrial fibrillation
   - Hold diuresis in setting of hypotension
   - Hold captopril in setting of hypotension
   -If afib with [**Last Name (LF) **], [**First Name3 (LF) 178**] rate control with beta-blockers
   .
   6. COPD:
   - standing albuterol and ipratropium nebs
   - cont Flovent
   .
   7. Neuropathy/chronic pain:
   - continue TID neurontin
   ICU Care
   Nutrition: Restart tube feeds
   Glycemic Control:
   Lines:
   Multi Lumen - [**2150-12-14**] 06:46 PM
   Arterial Line - [**2150-12-17**] 12:10 AM
   Prophylaxis:
   DVT: venodynes, heparin SC
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: [**Hospital Unit Name 44**]

2150-12-20 08:05:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2150-12-19**] 11:15 AM
   Allergies:
   Penicillins
   Rash;
   Codeine
   Rash;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Last dose of Antibiotics:
   Ceftazidime - [**2150-12-17**] 10:00 PM
   Tamiflu - [**2150-12-19**] 08:00 AM
   Vancomycin - [**2150-12-19**] 08:45 AM
   Infusions:
   Fentanyl (Concentrate) - 125 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2150-12-19**] 08:14 AM
   Midazolam (Versed) - [**2150-12-19**] 11:25 AM
   Fentanyl - [**2150-12-19**] 11:25 AM
   Heparin Sodium (Prophylaxis) - [**2150-12-19**] 11:07 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-12-20**] 08:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.8
C (100.1
   HR: 88 (70 - 115) bpm
   BP: 125/63(84) {90/43(59) - 150/130(137)} mmHg
   RR: 15 (13 - 20) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 82.5 kg (admission): 81.3 kg
   Height: 60 Inch
   CVP: 16 (10 - 16)mmHg
   Total In:
                                                                  1,369 mL
                                                                    295 mL
   PO:
   TF:
                                                                    170 mL
                                                                    162 mL
   IVF:
                                                                    779 mL
                                                                    132 mL
   Blood products:
   Total out:
                                                                  1,476 mL
                                                                    240 mL
   Urine:
                                                                  1,476 mL
                                                                    240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -107 mL
                                                                     55 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI Deferred: Hemodynamic Instability
   PIP: 26 cmH2O
   Plateau: 19 cmH2O
   SpO2: 98%
   ABG: 7.43/46/128/28/5
   Ve: 9.8 L/min
   PaO2 / FiO2: 366
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.4 g/dL
   324 K/uL
   116 mg/dL
   0.7 mg/dL
   28 mEq/L
   4.3 mEq/L
   12 mg/dL
   107 mEq/L
   143 mEq/L
   28.5 %
   8.7 K/uL
        [image002.jpg]
                            [**2150-12-18**]  08:21 PM
                            [**2150-12-19**]  12:16 AM
                            [**2150-12-19**]  01:02 AM
                            [**2150-12-19**]  03:07 AM
                            [**2150-12-19**]  03:26 AM
                            [**2150-12-19**]  09:04 AM
                            [**2150-12-19**]  10:16 AM
                            [**2150-12-19**]  03:29 PM
                            [**2150-12-19**]  03:49 PM
                            [**2150-12-20**]  04:36 AM
   WBC
   10.3
   8.7
   Hct
   28.2
   28.5
   Plt
   334
   324
   Cr
   0.7
   0.7
   TropT
   0.10
   0.10
   0.10
   0.09
   TCO2
   33
   33
   33
   32
   32
   Glucose
   133
   116
   Other labs: PT / PTT / INR:16.7/33.1/1.5, CK / CKMB /
   Troponin-T:36/2/0.09, Differential-Neuts:66.2 %, Lymph:21.8 %, Mono:8.8
   %, Eos:3.0 %, Lactic Acid:1.4 mmol/L, Albumin:2.9 g/dL, Ca++:8.7 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   Resp failure due to flu, MRSA pna in setting of O2 dependent emphysema
 cont vent support, cont abx,  MDIs, slow RR and wean FiO2.
   Reintubation likely due to secretions and incompletely treated pna.
   Shock
 likely due to pna, sedation, prior diuresis. On levophed, dose
   stable and making urine, will wean as tolerated, use IVF judiciously
   CHF
 try to keep even as pressor dose decreased
   Positive troponin
 suspect demand ischemia, follow EKG and troponin
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2150-12-20**] 03:28 AM 20 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2150-12-14**] 06:46 PM
   Arterial Line - [**2150-12-17**] 12:10 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2150-12-21 07:27:00 Physician Resident Progress Note
TITLE:  PHYSICIAN RESIDENT PROGRESS NOTE
   Chief Complaint:
   24 Hour Events:
   Allergies:
   Penicillins
   Rash;
   Codeine
   Rash;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2150-12-19**] 08:45 AM
   Tamiflu - [**2150-12-20**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl (Concentrate) - 125 mcg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2150-12-20**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2150-12-20**] 04:12 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-12-21**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37
C (98.6
   HR: 92 (71 - 105) bpm
   BP: 95/45(62) {92/44(62) - 168/86(115)} mmHg
   RR: 16 (13 - 26) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 82.5 kg (admission): 81.3 kg
   Height: 60 Inch
    CVP: 5 (4 - 18)mmHg
   Total In:
                                                                  1,388 mL
                                                                    537 mL
   PO:
   TF:
                                                                    611 mL
                                                                    222 mL
   IVF:
                                                                    377 mL
                                                                    115 mL
   Blood products:
   Total out:
                                                                    850 mL
                                                                    335 mL
   Urine:
                                                                    850 mL
                                                                    335 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    538 mL
                                                                    202 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 492 (484 - 574) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 103
   PIP: 16 cmH2O
   Plateau: 19 cmH2O
   SpO2: 98%
   ABG: 7.42/51/128/30/7
   Ve: 8 L/min
   PaO2 / FiO2: 366
   Physical Examination
   General: intubated, sedated.  Sychronous with vent.
   Lungs: Lungs sound wheezy.
   CV: Tachycardic, irregular rhythm, normal S1 + S2, no murmurs, rubs,
   gallops
   Abdomen: soft, non-tender, non-distended, bowel sounds present
   Ext: warm, well perfused, no cyanosis or edema
   Labs / Radiology
   340 K/uL
   8.0 g/dL
   105 mg/dL
   0.6 mg/dL
   30 mEq/L
   4.2 mEq/L
   14 mg/dL
   105 mEq/L
   139 mEq/L
   24.0 %
   7.0 K/uL
        [image002.jpg]
                            [**2150-12-19**]  03:26 AM
                            [**2150-12-19**]  09:04 AM
                            [**2150-12-19**]  10:16 AM
                            [**2150-12-19**]  03:29 PM
                            [**2150-12-19**]  03:49 PM
                            [**2150-12-20**]  04:36 AM
                            [**2150-12-20**]  09:34 AM
                            [**2150-12-20**]  11:50 AM
                            [**2150-12-21**]  03:39 AM
                            [**2150-12-21**]  03:56 AM
   WBC
   8.7
   7.0
   Hct
   28.5
   24.0
   Plt
   324
   340
   Cr
   0.7
   0.6
   TropT
   0.10
   0.09
   TCO2
   33
   32
   32
   31
   32
   34
   Glucose
   116
   105
   Other labs: PT / PTT / INR:16.7/33.1/1.5, CK / CKMB /
   Troponin-T:36/2/0.09, Differential-Neuts:66.2 %, Lymph:21.8 %, Mono:8.8
   %, Eos:3.0 %, Lactic Acid:1.4 mmol/L, Albumin:2.9 g/dL, Ca++:8.2 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   83 yo F with COPD on 2L home O2, diastolic HF, PAF (not on coumadin)
   who presents with fever, cough, hypotension, altered mental status in
   the setting of influenza, intubated for respiratory distress.
   1. Respiratory failure
 Failed extubation 2 days ago, likely [**3-2**]
   extensive pneumonia.  Continuing to treat for Staph PNA with
   appropriate Abx.
   - Trial of PS this AM. F/u RSBI.
   - f/u ABGs
   -I&O goal of ~even to slightly negative today.
   2. Influenza/pneumonia
 DFA positive for influenza. Now with likely
   secondary infection with MRSA.
   - continue tamiflu
   - Continue on vancomycin; f/u Vanco trough tomorrow
   - droplet, contact precautions
   - f/u cultures
   - continue nebs
   3. Hypotension
Off Levophed, no pressor requirement.  Continue to
   monitor BPs and maintain MAP>65.
   4. Elevated troponin
 Likely [**3-2**] demand ischemia.  Stable CK-MB.  EKG
   with no evidence of ACS.
   5. Diastolic heart failure, paroxysmal atrial fibrillation
   - Hold diuresis in setting of hypotension
   - Hold captopril in setting of hypotension
   -If afib with [**Last Name (LF) **], [**First Name3 (LF) 178**] rate control with beta-blockers
   .
   6. COPD:
   - standing albuterol and ipratropium nebs
   - cont Flovent
   .
   7. Neuropathy/chronic pain:
   - continue TID neurontin
   ICU Care
   Nutrition: Restart tube feeds
   Glycemic Control:
   Lines:
   Multi Lumen - [**2150-12-14**] 06:46 PM
   Arterial Line - [**2150-12-17**] 12:10 AM
   Prophylaxis:
   DVT: venodynes, heparin SC
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: [**Hospital Unit Name 44**]

2150-12-21 10:11:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Influenza
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -Remains intubated with PSV mode
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Penicillins
   Rash;
   Codeine
   Rash;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Last dose of Antibiotics:
   Tamiflu - [**2150-12-20**] 08:00 AM
   Vancomycin - [**2150-12-21**] 08:18 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl (Concentrate) - 100 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2150-12-21**] 09:38 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Gastrointestinal: No(t) Abdominal pain
   Flowsheet Data as of  [**2150-12-21**] 10:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.6
C (99.6
   HR: 86 (71 - 96) bpm
   BP: 106/51(96) {92/44(62) - 139/68(96)} mmHg
   RR: 15 (13 - 19) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 82.5 kg (admission): 81.3 kg
   Height: 60 Inch
   CVP: 11 (4 - 12)mmHg
   Total In:
                                                                  1,388 mL
                                                                    945 mL
   PO:
   TF:
                                                                    611 mL
                                                                    295 mL
   IVF:
                                                                    377 mL
                                                                    350 mL
   Blood products:
   Total out:
                                                                    850 mL
                                                                    430 mL
   Urine:
                                                                    850 mL
                                                                    430 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    538 mL
                                                                    515 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 469 (469 - 574) mL
   PS : 10 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 103
   PIP: 15 cmH2O
   SpO2: 94%
   ABG: 7.42/51/128/30/7
   Ve: 8.3 L/min
   PaO2 / FiO2: 366
   Physical Examination
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: right base, Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.0 g/dL
   340 K/uL
   105 mg/dL
   0.6 mg/dL
   30 mEq/L
   4.2 mEq/L
   14 mg/dL
   105 mEq/L
   139 mEq/L
   26.1 %
   7.0 K/uL
        [image002.jpg]
                            [**2150-12-19**]  09:04 AM
                            [**2150-12-19**]  10:16 AM
                            [**2150-12-19**]  03:29 PM
                            [**2150-12-19**]  03:49 PM
                            [**2150-12-20**]  04:36 AM
                            [**2150-12-20**]  09:34 AM
                            [**2150-12-20**]  11:50 AM
                            [**2150-12-21**]  03:39 AM
                            [**2150-12-21**]  03:56 AM
                            [**2150-12-21**]  07:35 AM
   WBC
   8.7
   7.0
   Hct
   28.5
   24.0
   26.1
   Plt
   324
   340
   Cr
   0.7
   0.6
   TropT
   0.10
   0.09
   TCO2
   32
   32
   31
   32
   34
   Glucose
   116
   105
   Other labs: PT / PTT / INR:16.7/33.1/1.5, CK / CKMB /
   Troponin-T:36/2/0.09, Differential-Neuts:66.2 %, Lymph:21.8 %, Mono:8.8
   %, Eos:3.0 %, Lactic Acid:1.4 mmol/L, Albumin:2.9 g/dL, Ca++:8.2 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.9 mg/dL
   Imaging: CXR-ETT at 2cm above carina, mild improvement in bilateral
   opacities.
   Assessment and Plan
   83 yo female with history of COPD, A-fib, CVA admitted with pneumonia
   with positive influenza swab now with extubation attempt complicated by
   significant pulmonary edema.  She has been maintained on PSV support
   without evidence of significant negative fluid balance to date.  She
   this morning has CVP-7, some inspiratory fall and variation in pulse
   pressure with inspiration all arguing for relative hypovolemia.  She
   does retain significant bronchospasm with with previous failure patient
   did have secretions, tachypnea and persistent bronchospasm she did
   fail.
   1)Respiratory Failure-For treatment based on above, will
   Continue
   -Tamiflu
until 7 days post fever
   -Vanco
   Maintain even fluid balance
   2)Atrial Fibrillation
she has atrial flutter this morning
   -Will continue with rate control as needed but well tolerated through
   to this morning
   3)Congestive Heart Failure
Systolic acute and chronic
   -Keep fluid balance even today.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2150-12-21**] 06:00 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2150-12-14**] 06:46 PM
   Arterial Line - [**2150-12-17**] 12:10 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2150-12-22 07:11:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -Failed trial of pressure support [**6-2**]; had to go back to [**11-2**] due to
   tachypnea, agitation.
   -Arterial line was pulled out.
   Allergies:
   Penicillins
   Rash;
   Codeine
   Rash;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Last dose of Antibiotics:
   Tamiflu - [**2150-12-20**] 08:00 AM
   Vancomycin - [**2150-12-21**] 08:18 AM
   Infusions:
   Fentanyl (Concentrate) - 75 mcg/hour
   Midazolam (Versed) - 1.5 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2150-12-21**] 09:38 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-12-22**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.3
C (99.2
   HR: 96 (74 - 99) bpm
   BP: 138/79(105) {87/40(56) - 142/79(105)} mmHg
   RR: 34 (12 - 34) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 82.5 kg (admission): 81.3 kg
   Height: 60 Inch
    CVP: 12 (4 - 12)mmHg
   Total In:
                                                                  1,970 mL
                                                                    403 mL
   PO:
   TF:
                                                                    685 mL
                                                                    210 mL
   IVF:
                                                                    785 mL
                                                                     93 mL
   Blood products:
   Total out:
                                                                  1,375 mL
                                                                    340 mL
   Urine:
                                                                  1,375 mL
                                                                    340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    595 mL
                                                                     63 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 574 (469 - 617) mL
   PS : 10 cmH2O
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 121
   PIP: 16 cmH2O
   SpO2: 98%
   ABG: 7.40/51/143/28/5
   Ve: 8 L/min
   PaO2 / FiO2: 409
   Physical Examination
   General: intubated, sedated.  Sychronous with vent.
   Lungs: Lungs sound less rhonchous anteriorly today
   CV: Tachycardic, irregular rhythm, normal S1 + S2, no murmurs, rubs,
   gallops
   Abdomen: soft, non-tender, non-distended, bowel sounds present
   Ext: warm, well perfused, no cyanosis or edema
   Labs / Radiology
   418 K/uL
   8.5 g/dL
   116 mg/dL
   0.5 mg/dL
   28 mEq/L
   4.3 mEq/L
   12 mg/dL
   107 mEq/L
   142 mEq/L
   26.0 %
   8.2 K/uL
        [image002.jpg]
                            [**2150-12-19**]  03:49 PM
                            [**2150-12-20**]  04:36 AM
                            [**2150-12-20**]  09:34 AM
                            [**2150-12-20**]  11:50 AM
                            [**2150-12-21**]  03:39 AM
                            [**2150-12-21**]  03:56 AM
                            [**2150-12-21**]  07:35 AM
                            [**2150-12-21**]  01:08 PM
                            [**2150-12-22**]  03:16 AM
                            [**2150-12-22**]  03:28 AM
   WBC
   8.7
   7.0
   8.2
   Hct
   28.5
   24.0
   26.1
   26.3
   26.0
   Plt
   324
   340
   418
   Cr
   0.7
   0.6
   0.5
   TCO2
   32
   31
   32
   34
   33
   Glucose
   116
   105
   116
   Other labs: PT / PTT / INR:12.9/30.1/1.1, CK / CKMB /
   Troponin-T:36/2/0.09, Differential-Neuts:66.2 %, Lymph:21.8 %, Mono:8.8
   %, Eos:3.0 %, Lactic Acid:1.4 mmol/L, Albumin:2.9 g/dL, Ca++:8.4 mg/dL,
   Mg++:2.0 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   83 yo F with COPD on 2L home O2, diastolic HF, PAF (not on coumadin)
   who presents with fever, cough, hypotension, altered mental status in
   the setting of influenza, intubated for respiratory distress.
   1. Respiratory failure
 Failed extubation 3 days ago, likely [**3-2**]
   extensive pneumonia.  Continuing to treat for Staph PNA with
   appropriate Abx.  Radiographic improvement along the bases bilaterally,
   but continued volume loss in RUL.  RSBI favorable for extubation.
   - Trial of PS 5/5 this AM. F/u RSBI.
   - f/u ABG
   - Extubation attempt if tolerates PS5/5
   - I&O goal of -500cc today
   - Nitro gtt and Lasix as needed peri-intubation
   2. Influenza/pneumonia
 DFA positive for influenza. Now with likely
   secondary infection with MRSA.
   - continue Tamiflu (day 8)
   - Continue on Vancomycin (day 8)
   - Droplet, contact precautions
   - f/u cultures
   - continue nebs
   3. Hypotension
 Off Levophed, no pressor requirement.  Continue to
   monitor BPs and maintain MAP>65.
   4. Elevated troponin
 Likely [**3-2**] demand ischemia. No longer trending.
   5. Diastolic heart failure, paroxysmal atrial fibrillation
   - Hold diuresis in setting of hypotension
   - Hold captopril in setting of hypotension
   - If afib with [**Last Name (LF) **], [**First Name3 (LF) 178**] rate control with beta-blockers
   .
   6. COPD:
   - standing albuterol and ipratropium nebs
   - cont Flovent
   .
   7. Neuropathy/chronic pain:
   - continue TID neurontin
   8. Anemia
 Hct stable at 26.
   - Daily Hct
   ICU Care
   Nutrition: Continue tube feeds.
   Glycemic Control:
   Lines:
   Multi Lumen - [**2150-12-14**] 06:46 PM
   Prophylaxis:
   DVT: venodynes, heparin SC
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: [**Hospital Unit Name 44**]

2150-12-22 12:19:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -A-line lost overnight
   -PSV not tolerated with excessive tachypnea
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Rash;
   Codeine
   Rash;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2150-12-22**] 08:03 AM
   Tamiflu - [**2150-12-22**] 08:03 AM
   Infusions:
   Fentanyl (Concentrate) - 75 mcg/hour
   Midazolam (Versed) - 1.5 mg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2150-12-22**] 08:03 AM
   Heparin Sodium (Prophylaxis) - [**2150-12-22**] 08:03 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: Tachypnea
   Flowsheet Data as of  [**2150-12-22**] 12:17 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.5
C (99.5
   HR: 81 (74 - 99) bpm
   BP: 151/64(86) {109/42(57) - 151/67(86)} mmHg
   RR: 16 (12 - 34) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 82.5 kg (admission): 81.3 kg
   Height: 60 Inch
   CVP: 12 (4 - 12)mmHg
   Total In:
                                                                  1,970 mL
                                                                  1,243 mL
   PO:
   TF:
                                                                    685 mL
                                                                    358 mL
   IVF:
                                                                    785 mL
                                                                    655 mL
   Blood products:
   Total out:
                                                                  1,375 mL
                                                                  1,040 mL
   Urine:
                                                                  1,375 mL
                                                                  1,040 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    595 mL
                                                                    203 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 581 (531 - 617) mL
   PS : 10 cmH2O
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 42
   PIP: 16 cmH2O
   SpO2: 96%
   ABG: 7.40/51/143/28/5
   Ve: 8.3 L/min
   PaO2 / FiO2: 409
   Physical Examination
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.5 g/dL
   418 K/uL
   116 mg/dL
   0.5 mg/dL
   28 mEq/L
   4.3 mEq/L
   12 mg/dL
   107 mEq/L
   142 mEq/L
   26.0 %
   8.2 K/uL
        [image002.jpg]
                            [**2150-12-19**]  03:49 PM
                            [**2150-12-20**]  04:36 AM
                            [**2150-12-20**]  09:34 AM
                            [**2150-12-20**]  11:50 AM
                            [**2150-12-21**]  03:39 AM
                            [**2150-12-21**]  03:56 AM
                            [**2150-12-21**]  07:35 AM
                            [**2150-12-21**]  01:08 PM
                            [**2150-12-22**]  03:16 AM
                            [**2150-12-22**]  03:28 AM
   WBC
   8.7
   7.0
   8.2
   Hct
   28.5
   24.0
   26.1
   26.3
   26.0
   Plt
   324
   340
   418
   Cr
   0.7
   0.6
   0.5
   TCO2
   32
   31
   32
   34
   33
   Glucose
   116
   105
   116
   Other labs: PT / PTT / INR:12.9/30.1/1.1, CK / CKMB /
   Troponin-T:36/2/0.09, Differential-Neuts:66.2 %, Lymph:21.8 %, Mono:8.8
   %, Eos:3.0 %, Lactic Acid:1.4 mmol/L, Albumin:2.9 g/dL, Ca++:8.4 mg/dL,
   Mg++:2.0 mg/dL, PO4:4.0 mg/dL
   Imaging: CXR-Some improvement bilaterally in lower lung fields with
   improved aeration.  We do have peristence of the upper lobe opacity in
   the right side--patient is rotated
   Microbiology: No new data
   Assessment and Plan
   83 yo female with initial admission for respiratory failure secondary
   to pneumonia with failed extubation during hospitalization.  She has
   had limited capacity to wean further in PSV with tachypnea limiting
   wean.  On exam she has limited evidence of persistent significant
   volume overload.  We have, encouragingly, seen some substantial
   improvement in oxygenation noted across past 24 hours.
   1)Respiratory Failure-Patient with improved tolerance of PSV through to
   this morning.  We have RSBi-47, we have NIF=-45, we have patient
   euvolemic.  This is all favorable for extubation.
   -We will leave on [**6-2**] and check ABG to evaluate tolerance at 1 hour
   -Will continue with PSV today
   -We have decreased secretions noted through to today and improved CXR
   -With favorable ABG we will have to consider trial of extubation
   -Will move to intermittent positive pressure support if needed post
   extubation
   -Continue negative 500cc or even fluid balance.
   2)Pneumonia-
   -Tamiflu in place
   -Will continue with ABX
   -Follow culture results
   -Do see improvement in secretion volume this morning
 ALTERATION IN NUTRITION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 HYPERTENSION, BENIGN
 HYPOTENSION (NOT SHOCK)
 PNEUMONIA, OTHER
 .H/O HEART FAILURE (CHF), DIASTOLIC, CHRONIC
 .H/O CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS,
   EMPHYSEMA) WITHOUT ACUTE EXACERBATION
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2150-12-22**] 06:53 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2150-12-14**] 06:46 PM
   Prophylaxis:
   DVT: See resident note of this date
   Stress ulcer:  See resident note of this date
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45

2150-12-23 07:09:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -extubated!! doing well, a [**Doctor Last Name **] bit hypertensive SBP 150's, d/c'd nitro
   ggt (had that on for comfort during extubation), added on 6.25mg
   captopril TID (she's on 5 of lisinopril at home), she got 60mg IV lasix
   x1 in the AM, shes on 60mg PO at home, can maybe add this back tmrw
   -agitated at night, gave 0.5mg haldol x2, and 5mg zytis
   (pt really needs to rest as she hasnt slept in days and her anxiety
   might have contributed to failed extubation previously)
   Allergies:
   Penicillins
   Rash;
   Codeine
   Rash;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2150-12-22**] 08:03 AM
   Tamiflu - [**2150-12-22**] 08:23 PM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2150-12-22**] 08:03 AM
   Furosemide (Lasix) - [**2150-12-22**] 02:15 PM
   Heparin Sodium (Prophylaxis) - [**2150-12-23**] 12:05 AM
   Morphine Sulfate - [**2150-12-23**] 04:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-12-23**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 35.8
C (96.5
   HR: 74 (71 - 91) bpm
   BP: 104/42(52) {104/42(52) - 151/75(89)} mmHg
   RR: 14 (12 - 35) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 82.5 kg (admission): 81.3 kg
   Height: 60 Inch
             Total In:
                                                                  1,508 mL
                                                                     71 mL
   PO:
             TF:
                                                                    365 mL
   IVF:
                                                                    813 mL
                                                                     71 mL
   Blood products:
   Total out:
                                                                  4,613 mL
                                                                    540 mL
   Urine:
                                                                  4,613 mL
                                                                    540 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,105 mL
                                                                   -469 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 559 (559 - 581) mL
   PS : 5 cmH2O
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 32
   PIP: 16 cmH2O
   SpO2: 96%
   ABG: 7.40/53/115/34/6
   NIF: -45 cmH2O
   Ve: 8.3 L/min
   PaO2 / FiO2: 329
   Physical Examination
   General: intubated, sedated.  Sychronous with vent.
   Lungs: Lungs sound less rhonchous anteriorly today
   CV: Tachycardic, irregular rhythm, normal S1 + S2, no murmurs, rubs,
   gallops
   Abdomen: soft, non-tender, non-distended, bowel sounds present
   Ext: warm, well perfused, no cyanosis or edema
   Labs / Radiology
   513 K/uL
   8.7 g/dL
   88 mg/dL
   0.6 mg/dL
   34 mEq/L
   3.9 mEq/L
   11 mg/dL
   104 mEq/L
   144 mEq/L
   27.0 %
   8.0 K/uL
        [image002.jpg]
                            [**2150-12-20**]  09:34 AM
                            [**2150-12-20**]  11:50 AM
                            [**2150-12-21**]  03:39 AM
                            [**2150-12-21**]  03:56 AM
                            [**2150-12-21**]  07:35 AM
                            [**2150-12-21**]  01:08 PM
                            [**2150-12-22**]  03:16 AM
                            [**2150-12-22**]  03:28 AM
                            [**2150-12-22**]  01:27 PM
                            [**2150-12-23**]  04:27 AM
   WBC
   7.0
   8.2
   8.0
   Hct
   24.0
   26.1
   26.3
   26.0
   27.0
   Plt
   [**Telephone/Fax (3) 10928**]
   Cr
   0.6
   0.5
   0.6
   TCO2
   31
   32
   34
   33
   34
   Glucose
   105
   116
   88
   Other labs: PT / PTT / INR:13.8/33.7/1.2, CK / CKMB /
   Troponin-T:36/2/0.09, Differential-Neuts:66.2 %, Lymph:21.8 %, Mono:8.8
   %, Eos:3.0 %, Lactic Acid:1.4 mmol/L, Albumin:2.9 g/dL, Ca++:9.0 mg/dL,
   Mg++:1.9 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   83 yo F with COPD on 2L home O2, diastolic HF, PAF (not on coumadin)
   who presents with fever, cough, hypotension, altered mental status in
   the setting of influenza, intubated for respiratory distress.
   1. Respiratory failure
 Failed extubation 3 days ago, likely [**3-2**]
   extensive pneumonia.  Continuing to treat for Staph PNA with
   appropriate Abx.  Radiographic improvement along the bases bilaterally,
   but continued volume loss in RUL.  RSBI favorable for extubation.
   - Trial of PS 5/5 this AM. F/u RSBI.
   - f/u ABG
   - Extubation attempt if tolerates PS5/5
   - I&O goal of -500cc today
   - Nitro gtt and Lasix as needed peri-intubation
   2. Influenza/pneumonia
 DFA positive for influenza. Now with likely
   secondary infection with MRSA.
   - continue Tamiflu (day 8)
   - Continue on Vancomycin (day 8)
   - Droplet, contact precautions
   - f/u cultures
   - continue nebs
   3. Hypotension
 Off Levophed, no pressor requirement.  Continue to
   monitor BPs and maintain MAP>65.
   4. Elevated troponin
 Likely [**3-2**] demand ischemia. No longer trending.
   5. Diastolic heart failure, paroxysmal atrial fibrillation
   - Hold diuresis in setting of hypotension
   - Hold captopril in setting of hypotension
   - If afib with [**Last Name (LF) **], [**First Name3 (LF) 178**] rate control with beta-blockers
   .
   6. COPD:
   - standing albuterol and ipratropium nebs
   - cont Flovent
   .
   7. Neuropathy/chronic pain:
   - continue TID neurontin
   8. Anemia
 Hct stable at 26.
   - Daily Hct
   ICU Care
   Nutrition: Continue tube feeds.
   Glycemic Control:
   Lines:
   Multi Lumen - [**2150-12-14**] 06:46 PM
   Prophylaxis:
   DVT: venodynes, heparin SC
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: [**Hospital Unit Name 44**]

2150-12-23 12:21:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2150-12-22**] 10:52 AM
 INVASIVE VENTILATION - STOP [**2150-12-22**] 02:29 PM
   -Continued negative fluid balance in place
   -Significant sputum production ongoing with cough and clearance of
   phlegm
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Penicillins
   Rash;
   Codeine
   Rash;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Last dose of Antibiotics:
   Tamiflu - [**2150-12-22**] 08:23 PM
   Vancomycin - [**2150-12-23**] 11:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2150-12-22**] 02:15 PM
   Morphine Sulfate - [**2150-12-23**] 04:15 AM
   Heparin Sodium (Prophylaxis) - [**2150-12-23**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Cough
   Flowsheet Data as of  [**2150-12-23**] 12:09 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.6
C (97.8
   HR: 71 (70 - 91) bpm
   BP: 111/42(59) {93/42(52) - 146/75(89)} mmHg
   RR: 15 (14 - 35) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 82.5 kg (admission): 81.3 kg
   Height: 60 Inch
             Total In:
                                                                  1,508 mL
                                                                    580 mL
   PO:
             TF:
                                                                    365 mL
   IVF:
                                                                    813 mL
                                                                    580 mL
   Blood products:
   Total out:
                                                                  4,613 mL
                                                                    540 mL
   Urine:
                                                                  4,613 mL
                                                                    540 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,105 mL
                                                                     40 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: 7.40/53/115/34/6
   PaO2 / FiO2: 329
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Rhonchorous: Diffuse)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.7 g/dL
   513 K/uL
   88 mg/dL
   0.6 mg/dL
   34 mEq/L
   3.9 mEq/L
   11 mg/dL
   104 mEq/L
   144 mEq/L
   27.0 %
   8.0 K/uL
        [image002.jpg]
                            [**2150-12-20**]  09:34 AM
                            [**2150-12-20**]  11:50 AM
                            [**2150-12-21**]  03:39 AM
                            [**2150-12-21**]  03:56 AM
                            [**2150-12-21**]  07:35 AM
                            [**2150-12-21**]  01:08 PM
                            [**2150-12-22**]  03:16 AM
                            [**2150-12-22**]  03:28 AM
                            [**2150-12-22**]  01:27 PM
                            [**2150-12-23**]  04:27 AM
   WBC
   7.0
   8.2
   8.0
   Hct
   24.0
   26.1
   26.3
   26.0
   27.0
   Plt
   [**Telephone/Fax (3) 10928**]
   Cr
   0.6
   0.5
   0.6
   TCO2
   31
   32
   34
   33
   34
   Glucose
   105
   116
   88
   Other labs: PT / PTT / INR:13.8/33.7/1.2, CK / CKMB /
   Troponin-T:36/2/0.09, Differential-Neuts:66.2 %, Lymph:21.8 %, Mono:8.8
   %, Eos:3.0 %, Lactic Acid:1.4 mmol/L, Albumin:2.9 g/dL, Ca++:9.0 mg/dL,
   Mg++:1.9 mg/dL, PO4:4.2 mg/dL
   Imaging: CXR-Post extubation
persistent moderate right sided pulmonary
   infiltrates noted
   Assessment and Plan
   83 yo female with significant cardiac disease now admitted with
   respiratory failure in the setting of pneumonia (influenza) as well as
   underlying congestive heart failure and chronic obstructive lung
   disease requiring home oxygen therapy..
   1)Respiratory Failure-
   -Will continue to encourage cough, deep breath and move to increased
   mobility to aid in secretion clearance
   -Underlying causes to be treated as defined below
   2)Pneumonia-
   -Tamiflu to continue with vancomycin
   3)Congestive Heart Failure
Patient with good tolerance of diuresis
   around extubation time and have been able to continue with stable BP,
   stable creatinine and reasonable wean of O2.
   -Will continue with mild negative fluid balance
   4)Atrial Fibrillation
Patient with current A-flutter and demand pacer
   in place
   -continue with telemetry
   -continue with rate control as needed
   5)Chronic Obstructive Pulmonary Disease-
   -Fluticasone
   -Atrovent
   -Continue with nebs
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2150-12-14**] 06:46 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
consider move to floor when able
   Total time spent: 38 minutes